US07399771B2
(2,6-Dimethyl-phenyl)-[4′-methyl-4-(phenyl-pyridin-4-yl-amino)-[1,4′]bipiperidinyl-1′-yl]-methanone
It is prepared from (4′-methyl-[1,4′]bipiperidinyl-4-yl)-phenyl-pyridin-4-yl-amine and 2,6-dimethyl-benzoic acid using a procedure as described in above Example 1. MS/ESI 483 [M+H]+. (4′-Methyl-[1,4′]bipiperidinyl-4-yl)-phenyl-pyridin-4-yl-amine used as starting material can be prepared from tert-butyl 4-phenylaminopiperidine-1-carboxylate and 4-bromopyridine hydrochloride using procedures as described in Example 1a-1d of PCT/EP02/03871. MS/ESI 351 [M+H]+

reactant | (4′-methyl-[1,4′]bipiperidinyl-4-yl)-phenyl-pyridin-4-yl-amine | CC1(CCNCC1)N1CCC(CC1)N(C1=CC=NC=C1)C1=CC=CC=C1 | C22H30N4
reactant | 2,6-dimethyl-benzoic acid | CC1=C(C(=O)O)C(=CC=C1)C | C9H10O2
reactant | tert-butyl 4-phenylaminopiperidine-1-carboxylate | C1(=CC=CC=C1)NC1CCN(CC1)C(=O)OC(C)(C)C | C16H24N2O2
reactant | 4-bromopyridine hydrochloride | Cl.BrC1=CC=NC=C1
product | (2,6-Dimethyl-phenyl)-[4′-methyl-4-(phenyl-pyridin-4-yl-amino)-[1,4′]bipiperidinyl-1′-yl]-methanone | CC1=C(C(=CC=C1)C)C(=O)N1CCC(CC1)(N1CCC(CC1)N(C1=CC=NC=C1)C1=CC=CC=C1)C | C31H38N4O
